datasets/10k__Tet_Int.csv
SMILES Labelled
"C[NH+:10]([H])[C:20]1([NH:21]C)[O]C([H])C([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C([H])C([H])[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)[H].[O-:21][H]>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])C)[H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([O:21]C)([S]CC)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10][H].C[O+:21]=[C:20]([S]CC)[S]C7=CC=CC=C7 21=20;20,10=10"
"[O-:21][C:20]1([H])C(C)C([H])C([H])C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C([H])C([H])C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1([H])C([H])C(C)C(C)C(CC)[O:10]1>>[O-:10]C(CC)C(C)C(C)C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1(C)[O:10]C(C)C([H])C1O>>[O-:10]C(C)C([H])C([C:20](C)=[O:21])O 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])[H])[O-:10])CC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])[H])CC 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCCN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]C)CC>>CCCCCCN([C:20](=[O:10])OC1=CC=CC=C1)CC.[O-:21]C 10=20;20,21=21"
"[H][S:10]C(C)C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([S][H])[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([S][H])[O]C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H]C1C(O[C:20](=[O:10])N1CC)C.[O-:21]C1=CC=CC=C1>>[H]C1C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1 10=20;20,21=21"
"[H][O+:10](C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][O:10][H].CC[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]CC)([O]C8=CC=CC=C8)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O]C(CC)C([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(CC)C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)CCCCCC)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)CCCCCC)[O-:10])CC 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O]C(C)C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(C)[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[H][NH+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(CC)[NH][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)C1=CC=CC=C1)[O-:10])[H]>>CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)C1=CC=CC=C1)[H] 10=20;20,21=21"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)C>>CC1C(C(O[C:20](=[O:10])N1C)CCCCCC)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[O-:21][C:20]1([H])[O+:10]([K])C([H])C(O)=C1[H]>>[O:10]([K])C([H])/C(O)=C([C:20]([H])=[O:21])/[H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C([O-:21])[H])CCCCCC)CC>>CN([C:20]1(OC(C([O:21]1)[H])CCCCCC)[O-:10])CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH](C)C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"CCC1C(O[C:20](=[O:10])N1[H])[H].[O-:21]CC>>CCC1C(O[C:20](N1[H])([O-:10])[O:21]CC)[H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C([H])C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C([H])C(CC)[NH]1 10=20;20,21=21"
"[Li][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)O[H])[H]>>[Li][O:21][H].[C:20](=[O:10])(OC1=CC=CC=C1)O[H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)C)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)C)C.[O-:21]CCCCCC 10=20;20,21=21"
"CC[S:10][H].C[O+:21]=[C:20]([O][H])[S]CC.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21]C)([O][H])[S]CC 10=20;20,21=21"
